US07723333B2
2-Butyl-5-phenyl-4-[(2-phenylethyl)amino]isothiazol-3(2H)-one 1,1-dioxide
The title compound was prepared from 2-butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide and 2-phenylethanamine in a similar manner as described for e.g. Example 6 and 7. 1H NMR (500 MHz CDCl3): δ 7.58-7.52 (m, 2H), 7.50-7.42 (m, 2H), 7.30-7.20 (m, 4H), 6.88 (dd, 2H), 5.38 (t, 1H), 3.70 (t, 2H), 3.18 (dt, 2H), 2.62 (t, 2H), 1.88-1.78 (m, 2H), 1.50-1.40 (m, 2H), 0.98 (t, 2H); 13C NMR (125 MHz CDCl3): δ 159.4, 137.8, 137.5, 131.8, 130.0, 129.0, 128.9, 128.7, 127.1, 125.2, 107.2, 45.1, 40.4, 36.0, 30.4, 20.3, 13.8; Mass-Spectrum M+H+ 385.

reactant | 2-butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide | C(CCC)N1S(C(=C(C1=O)Cl)C1=CC=CC=C1)(=O)=O | C13H14ClNO3S
reactant | 2-phenylethanamine | C1(=CC=CC=C1)CCN | C8H11N
product | 2-Butyl-5-phenyl-4-[(2-phenylethyl)amino]isothiazol-3(2H)-one 1,1-dioxide | C(CCC)N1S(C(=C(C1=O)NCCC1=CC=CC=C1)C1=CC=CC=C1)(=O)=O | C21H24N2O3S
